US08357717B2
Stage 2: 2-(tert-Butoxycarbonyl) 1,2,3,4-tetrahydroisoquinoline-7-carboxylic acid
Lithium hydroxide monohydrate (5.8 g, 0.136 mol) dissolved in water (73 ml) was added to a solution of 2-tert-butyl 7-methyl-3,4-dihydroisoquinoline-2,7(1H)-dicarboxylate (7.9 g, 0.027 mol) in methanol (110 ml), and the mixture was stirred for 4 h. The solvent was removed in vacuo. Water and diethyl ether were added to the residue, and the phases were separated. The aqueous phase was adjusted to an acidic pH with dilute aqueous HCl solution and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting crude product was used directly in the following stage. Yield: 5.8 g (76%).

reactant | Lithium hydroxide monohydrate | 0.136 mol, 5.8 g | O.[OH-].[Li+]
reactant | 2-tert-butyl 7-methyl-3,4-dihydroisoquinoline-2,7(1H)-dicarboxylate | 0.027 mol, 7.9 g | CC1(CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C)C(=O)[O-]
solvent | water | 73 ml | O | H2O
solvent | methanol | 110 ml | CO | CH4O
product | 2-(tert-Butoxycarbonyl) 1,2,3,4-tetrahydroisoquinoline-7-carboxylic acid | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)C(=O)O | C15H19NO4
